US06620842B2
1-(2Methylallyloxy-Xanthen-9-one-4yl)-3-(2,6-Dichloro-Phenyl)-Propen -1-one (See Accompanying Formula Drawing VIB 246).
A solution of KOH 50% (3 ml) is added to an equimolar solution of 3-(2-methylallyloxy -4acetyl-xanthen-9-one (2.31 g, 0.0075 mol) and 2,6dichloro-benzaldehyde (1.31 g, 0.0075 mol) in ethanol 95%; the addition is performed under energetic stirring at room temperature. The reaction is left under stirring for one night and then diluted with water and acidified; the precipitate is separated by filtration and dried under vacuum. The compound is crystallized by methanol to give 2.1 g of product m.p. 135-137° C., 1H-NMR (CDCl3)δ:4.74 (m, 2H), 5.4 (m, 2H), 5.95 (m, 1H), 7.06-8.5 (m, 11 H).

reactant | KOH | 3 ml | [OH-].[K+]
reactant | 2-methylallyloxy -4acetyl-xanthen-9-one | 0.0075 mol, 2.31 g | CC(COC1=CC=C(C=2OC3=CC=CC=C3C(C12)=O)C(C)=O)=C | C19H16O4
reactant | 2,6dichloro-benzaldehyde | 0.0075 mol, 1.31 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(2Methylallyloxy-Xanthen-9-one-4yl)-3-(2,6-Dichloro-Phenyl)-Propen -1-one | 2.1 g | CC(COC1=CC=C(C=2OC3=CC=CC=C3C(C12)=O)C(C=CC1=C(C=CC=C1Cl)Cl)=O)=C | C26H18Cl2O4
